US05608084
a) 5-[4-Acetoxy-2-(3-oxobutyl)-3,5,6-trimethylphenoxy]-2,2-dimethylpentanoicacid, isopropyl ester
A solution containing 14.0 g (0.053 moles) of 6-acetoxy-3,4-dihydro-2-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran in 240 ml of benzene is added, by slow dripping and under nitrogen atmosphere, to a suspension containing 1.82 g (0.074 moles) of 97% sodium hydride in 100 ml of dimethylsulfoxide. After 40 minutes the solution is dripped into a solution containing 13.3 g (0.052 moles) of 2,2-dimethyl-5-bromopentanoic acid isopropyl ester in 60 ml of benzene and the mixture is reacted at 65° C. for 19 hours. The reaction mixture is then diluted with ethyl ether and water, acidified to pH 5 by means of a 10% aqueous solution of hydrochloric acid and the product is recovered pure by chromatography on silica gel column with eluent ethylene chloride-ethyl ether in 90:10 ratio. After evaporating the solvent an oil is obtained, 13.03 g with a yield of 58%, having the following chemical-physical characteristics:

reactant | 6-acetoxy-3,4-dihydro-2-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran | 0.053 moles, 14.0 g | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(C)O)C1C)C)C | C15H20O4
reactant | sodium hydride | 0.074 moles, 1.82 g | [H-].[Na+]
reactant | 2,2-dimethyl-5-bromopentanoic acid isopropyl ester | 0.052 moles, 13.3 g | C(C)(C)OC(C(CCCBr)(C)C)=O | C10H19BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 240 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 5-[4-Acetoxy-2-(3-oxobutyl)-3,5,6-trimethylphenoxy]-2,2-dimethylpentanoicacid, isopropyl ester | yield of 58% | C(C)(=O)OC1=C(C(=C(OCCCC(C(=O)OC(C)C)(C)C)C(=C1C)C)CCC(C)=O)C | C25H38O6
